US08497360B2
To a solution of 1-bromo-2-isopropylbenzene (2.50 g, 12.56 mmol) in anhydrous THF (40 mL), 2,2′-dipyridyl (ca 2 mg) was added under nitrogen atmosphere (Zhi et al., 2003, which is incorporated herein by reference). The mixture was cooled down minus 78° C., and a solution of n-butyllithium (5.52 mL, 2.5 M in hexanes, 13.82 mmol) was added dropwise via syringe within the period of ten minutes. Upon addition, the mixture was stirred for 30 minutes, then warmed up to minus 30° C., and a flow of formaldehyde (generated from 1.77 g of paraformaldehyde by heating at 160° C.) was passed through the solution until the deep red color disappeared completely. The mixture was quenched with saturated ammonium chloride (5 mL), then poured into brine (15 mL). Organic layer was separated; aqueous layer was extracted twice with dichloromethane (20 mL each); combined extracts were dried over anhydrous Na2SO4, evaporated, and purified by silica gel chromatography to yield 2-isopropylbenzyl alcohol (1.11 g, 59%) as an oil. 1H NMR (400 MHz, CDCl3): δ 7.30 (m, 3 H, Ph-H), 7.18 (m, 3 H, Ph-H), 4.75 (s, 2 H, CH2OH), 3.27 (sep, J=6.6 Hz, 1 H, CH(CH3)2), 1.53 (s, 1 H, CH2OH), 1.26 (d, J=6.6 Hz, 1 H, CH(CH3)2).

reactant | 1-bromo-2-isopropylbenzene | 12.56 mmol, 2.50 g | BrC1=C(C=CC=C1)C(C)C | C9H11Br
reactant | n-butyllithium | 13.82 mmol, 2.5 M, 5.52 mL | C(CCC)[Li]
reactant | formaldehyde | 1.77 g | C=O | CH2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-isopropylbenzyl alcohol | 1.11 g, 59% | C(C)(C)C1=C(CO)C=CC=C1 | C10H14O
